US04241168
Production of 1-(2,4,6-Trichlorophenyl)-3-[α-(2,4-di-tert-amylphenoxy)butyramido]-4-(1-imidazolyl)-5-oxo-2-pyrazoline [Coupler (1)]
66 g (0.1 mol) of 1-(2,4,6-trichlorophenyl)-3-[α-(2,4-di-tert-amylphenoxy)butyramido]-4-bromo-5-oxo-2-pyrazoline and 27.2 g (0.4 mol) of imidazole were well mixed with each other in a mortar, then stirred for 2 hours under heating to 100° C. To the reaction mixture was added 200 ml of methanol to prepare a solution. Then 1 liter of ethyl acetate was added thereto, followed by washing several times with water. The ethyl acetate layer was dried with anhydrous sodium sulfate, and concentrated. Upon crystallization of the residue from acetonitrile-ethyl acetate (volume ratio:20.1), 48 g of pure Coupler (1) was obtained. The melting point of the coupler was 185°-187° C.

reactant | 1-(2,4,6-trichlorophenyl)-3-[α-(2,4-di-tert-amylphenoxy)butyramido]-4-bromo-5-oxo-2-pyrazoline | 0.1 mol, 66 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)Br)NC(C(CC)OC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O | C29H35BrCl3N3O3
reactant | imidazole | 0.4 mol, 27.2 g | N1C=NC=C1 | C3H4N2
reactant | methanol | 200 ml | CO | CH4O
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | 1-(2,4,6-Trichlorophenyl)-3-[α-(2,4-di-tert-amylphenoxy)butyramido]-4-(1-imidazolyl)-5-oxo-2-pyrazoline | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)N1C=NC=C1)NC(C(CC)OC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O | C32H38Cl3N5O3
